US07855297B2
By the reaction and treatment in the same manner as in Example 110 using N-[(4-dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) and butyl bromide (0.18 mL) as starting materials, 7-butoxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.15 g) was obtained.

reactant | N-[(4-dimethylaminophenyl)methyl]-7-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC=C(C=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
reactant | butyl bromide | 0.18 mL | C(CCC)Br | C4H9Br
product | 7-butoxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.15 g | C(CCC)OC1=CC=C2CCCC(C2=C1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C33H42N2O2
